US07732446B1
As described in example 1E, 80 mgs of 1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid was coupled with N-methylbenzylamine to give 82 mgs (8%) of [4-(benzyl-methyl-carbamoyl)-6,7-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester: 1H NMR (CDCl3) δ 1.50 (s, 9H), 3.77 (s, 3H), 4.02 and 4.03 (2s, 6H), 4.87-4.90 (m, 4H), 6.10-6.22 (m, 1H), 6.93 (s, 0.6H), 7.06-7.12 (m, 1H), 7.16 (s, 0.4H), 7.27-7.42 (m, 4H), 7.50 (d, 1H, J=7.60 Hz), 8.32 (s, 1H).

reactant | 1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid | 80 mgs | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(=O)O | C18H22N2O6
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | [4-(benzyl-methyl-carbamoyl)-6,7-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 82 mgs, 8% | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(N(C)CC1=CC=CC=C1)=O)=O | C26H31N3O5
